US06908913B2
7-[(Pyridin-4-yl)hydroxymethyl]imidazo[5,1-b]-thiazole (1.32 g) was prepared in the same manner as in step a) of Synthesis Example 1, except that 2.50 g of 7-iodoimidazo[5,1-b]thiazole and 1.05 ml of pyridine-4-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | pyridine-4-aldehyde | 1.05 ml | N1=CC=C(C=C1)C=O | C6H5NO
product | 7-[(Pyridin-4-yl)hydroxymethyl]imidazo[5,1-b]-thiazole | 1.32 g | N1=CC=C(C=C1)C(C=1N=CN2C1SC=C2)O | C11H9N3OS
